US05191084
3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2-methyl-5-oxo-N-(3-pyridinylmethyl)-1-pyrazolidine carboxamide
To a -15° C. solution of phosgene (4.50 mmol, 2.30 mL; 1.9M solution in toluene) in dry tetrahydrofuran (8 mL) is added neat triethylamine (4.50 mmol, 0.450 g; 0.620 mL) and the resulting suspension is stirred at -15° C. for 10 minutes. To this suspension is added 3-picolylamine (4.50 mmol, 0.490 g; 0.460 mL) and triethylamine (4.50 mmol, 0.450 g; 0.620 mL) in dry tetrahydrofuran (10 mL) in one portion and the reaction mixture is stirred at -15° C. for 30 minutes. Subsequently, 5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone (3.0 mmol, 0.870 g) in dry tetrahydrofuran (7 mL) is added at -15° C. and the reaction mixture is allowed to warm to room temperature overnight. The reaction is quenched with water (20 mL), the volatiles removed in vacuo, and the residue partitioned between ethyl acetate (150 mL) and water (150 mL). The organic layer is dried (Na2SO4) and concentrated in vacuo to give a tan solid. This material is purified by flash chromatography (SiO2 :1) 50% ethyl acetate/hexane; 2) 100% ethyl acetate; 3) 5% methanol/ethyl acetate) to give a mixture of starting material and product which is triturated with ether. The title compound is isolated as a white solid (0.158 g; 12%). Also isolated is a mixture of starting pyridazone and title compound (0.511 g). 1H-NMR (DMSO-d6, 400 MHz) δ8.45 (m, 3H); 7.65 (dt, 1H, J=8.0, 1.6 Hz); 7.22 (ddd, 1H, J=8.0, 5.0, 0.7 Hz); 6.94 (d, 1H, J=2.0 Hz); 6.88 (d, 1H, J=8.0 Hz); 6.82 (dd, 1H, J=8.0, 2.0 Hz); 4.63 (m, 1H); 4.38 (m, 3H); 3.70 (s, 3H); 3.65 (m, 1H); 2.74 (s, 3H); 2.65 (m, 1H); 1.79 (m, 2H); 1.63 (m, 4H); 1.49 (m, 2H). IR (KBr, cm-1) 3420, 3320, 2950, 1730, 1715, 1530, 1515, 1235, 1135.

reactant | phosgene | 4.50 mmol, 1.9M, 2.30 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 4.50 mmol, 0.620 mL, 0.450 g | C(C)N(CC)CC | C6H15N
reactant | 3-picolylamine | 4.50 mmol, 0.460 mL, 0.490 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | triethylamine | 4.50 mmol, 0.620 mL, 0.450 g | C(C)N(CC)CC | C6H15N
reactant | 5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone | 3.0 mmol, 0.870 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NN1C)=O | C16H22N2O3
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2-methyl-5-oxo-N-(3-pyridinylmethyl)-1-pyrazolidine carboxamide | C1(CCCC1)OC=1C=C(C=CC1OC)C1N(N(C(C1)=O)C(=O)NCC=1C=NC=CC1)C | C23H28N4O4
